US05945502
Diethyl 5-hexyl-2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate:
A 250 mL 3 neck round-bottom flask equipped with a condenser was flushed with nitrogen and then loaded with 2,5-dicarboethoxy-3,4-di(4-fluorophenyl)-cyclopentadienone (10 g, 24.3 mmol) and toluene (35 mL) and stirred for 5 min to give a deep orange solution. 1-Octyne (2.67 g, 24.3 mmol) was then added via a syringe to the solution. The reaction was then heated and refluxed for 3 days. The solvent was removed by rotary evaporation and the orange oily liquid was passed through a silica gel column (chloroform).

reactant | 2,5-dicarboethoxy-3,4-di(4-fluorophenyl)-cyclopentadienone | 24.3 mmol, 10 g | C(=O)(OCC)C=1C(C(=C(C1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)OCC)=O | C23H18F2O5
reactant | 1-Octyne | 24.3 mmol, 2.67 g | C#CCCCCCC | C8H14
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | Diethyl 5-hexyl-2,3-di(4-fluorophenyl)-1,4-benzenedicarboxylate | C(CCCCC)C=1C(=C(C(=C(C1)C(=O)OCC)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)OCC | C30H32F2O4
